US09403834B2
To a solution of 1-tert-butyl 2-methyl 3-bromo-1H-pyrrole-1,2-dicarboxylate (17.6 g, 57.9 mmol) in toluene (200 mL) and water (200 mL) was added potassium carbonate (64.0 g, 463 mmol), followed by phenylboronic acid (10.6 g, 87.0 mmol) and tetrabutylammonium bromide (1.68 g, 5.21 mmol). The reaction mixture degassed for 10 min with nitrogen and then tetrakis(triphenylphosphine)palladium (1.34 g, 1.16 mmol) was added. The resulting slurry was degassed with nitrogen for 30 min and then heated to reflux for 16 h. The reaction mixture was concentrated under reduced pressure to remove water and toluene. Water was then added to the residue and the mixture extracted by ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography using CombiFlash (REDISEP®, silica gel, 80 g, 20% EtOAc/hexanes) to obtain 1-tert-butyl 2-methyl 3-phenyl-1H-pyrrole-1,2-dicarboxylate (11.5 g, 65.9%) as a tan solid. 1H NMR (400 MHz, CD3OD) δ ppm: 1.60 (s, 9H), 3.79 (s, 3H), 6.40 (d, J=3.4 Hz, 1H), 7.37 (m, 6H).

reactant | 1-tert-butyl 2-methyl 3-bromo-1H-pyrrole-1,2-dicarboxylate | 57.9 mmol, 17.6 g | BrC1=C(N(C=C1)C(=O)OC(C)(C)C)C(=O)OC | C11H14BrNO4
reactant | potassium carbonate | 463 mmol, 64.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenylboronic acid | 87.0 mmol, 10.6 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 mL | O | H2O
catalyst | tetrabutylammonium bromide | 5.21 mmol, 1.68 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 1.16 mmol, 1.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-tert-butyl 2-methyl 3-phenyl-1H-pyrrole-1,2-dicarboxylate | 11.5 g, 65.9% | C1(=CC=CC=C1)C1=C(N(C=C1)C(=O)OC(C)(C)C)C(=O)OC | C17H19NO4
